US07208601B2
15.0 g (41.17 mmol) of 3-(5-bromo-thiophen-2-yl)-2(R)-tert-butoxycarbonylamino-propionic acid methyl ester was treated with tributyl-isopropenyl-stannane (17.88 g, 54.07 mmol) and Pd(PPh3)4 (4.8 g, 4.15 mmol) as described in the general procedure M to afford 8.50 g of 2(R)-tert-butoxycarbonylamino-3-(5-isopropenyl-thiophen-2-yl)-propionic acid methyl ester.

reactant | 3-(5-bromo-thiophen-2-yl)-2(R)-tert-butoxycarbonylamino-propionic acid methyl ester | 41.17 mmol, 15.0 g | COC([C@@H](CC=1SC(=CC1)Br)NC(=O)OC(C)(C)C)=O | C13H18BrNO4S
reactant | tributyl-isopropenyl-stannane | 54.07 mmol, 17.88 g | C(CCC)[Sn](C(=C)C)(CCCC)CCCC
catalyst | Pd(PPh3)4 | 4.15 mmol, 4.8 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2(R)-tert-butoxycarbonylamino-3-(5-isopropenyl-thiophen-2-yl)-propionic acid methyl ester | 8.50 g | COC([C@@H](CC=1SC(=CC1)C(=C)C)NC(=O)OC(C)(C)C)=O | C16H23NO4S
